US06455528B1
Synthesis of N-(1-(4-(1-(4-(6-Fluoropyridin-2-yl)piperazin-1-yl)ethyl)phenyl)methyl)acetamide
By similar reaction and treatment to that in Example 1(5) using 1-(6-fluoropyridin-2-yl)piperazine instead of phenylpiperazine and N-((4-(1-chloroethyl)phenyl)methyl)acetamide instead of N-(4-chloromethylphenylmethyl)acetamide, the title compound can be obtained.

reactant | 1-(6-fluoropyridin-2-yl)piperazine | FC1=CC=CC(=N1)N1CCNCC1 | C9H12FN3
reactant | N-((4-(1-chloroethyl)phenyl)methyl)acetamide | ClC(C)C1=CC=C(C=C1)CNC(C)=O | C11H14ClNO
product | N-(1-(4-(1-(4-(6-Fluoropyridin-2-yl)piperazin-1-yl)ethyl)phenyl)methyl)acetamide | FC1=CC=CC(=N1)N1CCN(CC1)C(C)C1=CC=C(C=C1)CNC(C)=O | C20H25FN4O
